US07576215B2
A mixture of 4-fluoro-2-trifluoromethyl-aniline (5.0 g, 27.89 mmol) and 2-benzoyl-3-ethoxy-acrylic acid ethyl ester (6.9 g, 27.89 mmol) in toluene (125 mL) was heated at reflux. After 18 hr, the reaction was cooled, concentrated and purified by column chromatography (eluent 10% to 40% Et2O/hexanes) to give 2-benzoyl-3-(2-trifluoromethyl-4-fluoro-phenylamino)-acrylic acid ethyl ester (6.6 g, 62%); MS (ESI) m/z 382 (M+H)+; 1H NMR E:Z (mixture 1:1) (CDCl3): δ 0.88 (t, J=5.38 Hz, 3H), 0.95 (t, J=5.38 Hz, 3H), 4.02 (q, J=5.38 Hz, 2H), 4.07 (t, J=5.38 Hz, 2H), 7.29-7.51 (m, 10H), 7.53-7.56 (dt, J=9.67, 1.54 Hz, 2H), 7.66-7.68 (dt, J=8.33, 1.41 Hz, 2H), 8.10-8.13 (d, J=12.68 Hz, 2H), 8.36-8.39 (d, J=12.43 Hz, 2H), 11.17-11.20 (d, J=12.68 Hz, 1H), 12.39-12.42 (d, J=12.43 Hz, 1H).

reactant | 4-fluoro-2-trifluoromethyl-aniline | 27.89 mmol, 5.0 g | FC1=CC(=C(N)C=C1)C(F)(F)F | C7H5F4N
reactant | 2-benzoyl-3-ethoxy-acrylic acid ethyl ester | 27.89 mmol, 6.9 g | C(C)OC(C(=COCC)C(C1=CC=CC=C1)=O)=O | C14H16O4
solvent | toluene | 125 mL | C1(=CC=CC=C1)C | C7H8
product | 2-benzoyl-3-(2-trifluoromethyl-4-fluoro-phenylamino)-acrylic acid ethyl ester | 6.6 g, 62% | C(C)OC(C(=CNC1=C(C=C(C=C1)F)C(F)(F)F)C(C1=CC=CC=C1)=O)=O | C19H15F4NO3
